US04861769
To a solution of crude 2-(2-aminothiazol-4-yl)-2-(2,2-dichlorocyclopropyloxyimino)acetic acid (syn isomer) (2.03 g) in a mixture of tetrahydrofuran (40 ml) and pyridine (1.68 ml) was dropwise added trifluoroacetic anhydride (1.47 ml) at -20° C. The mixture was stirred under ice-cooling for 30 minutes. The mixture was poured into ice-water, adjusted to pH 6.5 with saturated aqueous solution of sodium bicarbonate and washed with ethyl acetate. The aqueous solution was adjusted to pH 2 with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo to give 2-(2-trifluoroacetamidothiazol-4-yl)-2-(2,2-dichlorocyclopropyloxyimino)acetic acid (syn isomer)(1.88 g) as a solid.

reactant | 2-(2-aminothiazol-4-yl)-2-(2,2-dichlorocyclopropyloxyimino)acetic acid | 2.03 g | NC=1SC=C(N1)C(C(=O)O)=NOC1C(C1)(Cl)Cl | C8H7Cl2N3O3S
reactant | trifluoroacetic anhydride | 1.47 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.68 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-trifluoroacetamidothiazol-4-yl)-2-(2,2-dichlorocyclopropyloxyimino)acetic acid | 1.88 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC1C(C1)(Cl)Cl)(F)F | C10H6Cl2F3N3O4S
